US04968702
3-Amino-2-[1.1'-biphenyl]-4-yl-6-ethyl-4-quinolinecarboxylic acid
A 12.63 g portion of 2-amino-4'-phenylacetophenone, hydrochloride was dissolved in a mixture of 168 ml of absolute ethanol:water (1:1) and 40 ml of tetrahydrofuran. This solution was kept warm and with stirring, added dropwise to the 5-ethylisatin solution over 2 hours. The mixture was refluxed for 2 hours, then the solvent was distilled off at 85° C. and the reaction cooled for 1 hour. The red solids were collected, stirred with 2 liters of water for 1.5 hours and then filtered. The filtrate was acidified to pH 5 with glacial acetic acid. The resulting yellow solids were collected and dried, giving 4.47 g of the desired product, mp 240°-241° C.

reactant | 2-amino-4'-phenylacetophenone, hydrochloride | Cl.NCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1
reactant | 5-ethylisatin | C(C)C=1C=C2C(C(NC2=CC1)=O)=O | C10H9NO2
reactant | ethanol water | 168 ml | C(C)O.O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-Amino-2-[1.1'-biphenyl]-4-yl-6-ethyl-4-quinolinecarboxylic acid | 4.47 g | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)CC)C1=CC=C(C=C1)C1=CC=CC=C1 | C24H20N2O2
